US06544990B2
N-(4-chlorobenzyl)-8-(3-hydroxy-1-propynyl)-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide
To a solution of N-(4-chlorobenzyl)-8-iodo-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide (0.200 g), PdCl2(PPh3)2 (0.012 g) and CuI (0.029 g) in 10 mL Et2NH and 5 mL CH2Cl2 is added propargyl alcohol (0.021 g). The mixture is allowed to stir overnight at room temperature. The solvents are evaporated and the residue is partitioned between CH2Cl2 and water. The aqueous layer is extracted with CH2Cl2 (3×). The combined organic layers are washed with brine, dried and condensed. The crude product is chromatographed (Biotage flash 40S, eluent 1% MeOH/CH2Cl2 then 2% MeOH/CH2Cl2). Fractions homogeneous by TLC are combined and concentrated. The resulting solid is recrystallized from CH2Cl2/Et20 to yield 0.114 g (66%) of the desired product as a white solid.

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide | 0.200 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CC2CCOCC2)I)C)C=C1 | C24H24ClIN2O3
reactant | propargyl alcohol | 0.021 g | C(C#C)O | C3H4O
solvent | Et2NH | 10 mL | N(CC)CC | C4H11N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.012 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.029 g | [Cu]I
product | N-(4-chlorobenzyl)-8-(3-hydroxy-1-propynyl)-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide | 0.114 g, 66% | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CC2CCOCC2)C#CCO)C)C=C1 | C27H27ClN2O4
